US08003785B2
A mixture of 0.1013 g (0.208 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid (I-204), 5 mL of dimethylformamide, 0.107 g (0.208 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 0.25 mL (1.435 mmole) of diisopropylethylamine was stirred for 20 minutes, then 0.0444 g (0.830 mmole) of ammonium chloride was added. The reaction mixture was stirred for 1.5 hours and then 150 mL of ethyl acetate and 25 mL of water was added. The organic layer was washed with 25 mL of ammonium chloride solution, 25 mL of water, 25 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.048 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzamide (I-213).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid | 0.208 mmole, 0.1013 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C21H20F5N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.208 mmole, 0.107 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 1.435 mmole, 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.830 mmole, 0.0444 g | [Cl-].[NH4+]
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzamide | 0.048 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N)C=C2)C(F)(F)F | C21H21F5N6O2
